US04528024
A mixture of 2-[(2-methoxyethyl)sulfonyl]benzenesulfonamide (9.5 g, 0.034 mol), n-butylisocyanate (4.7 ml, 0.041 mol) and 1,4-diaza[2.2.2]bicyclooctane (0.1 g) in mixed xylenes (58 ml) was heated to 140° with stirring under nitrogen. Liquid phosgene (2.7 ml, 0.039 mol) was added at a rate to maintain an internal temperature between 125°-135°. When the addition was complete, the solution was refluxed for 2 hours, cooled to room temperature under nitrogen purge and then filtered under a nitrogen atmosphere. Removal of solvent in vacuo gave 2-[(2-methoxyethyl)sulfonyl]benzenesulfonyl isocyanate, which was used immediately in Example 5 below, without further purification.

reactant | 2-[(2-methoxyethyl)sulfonyl]benzenesulfonamide | 0.034 mol, 9.5 g | COCCS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N | C9H13NO5S2
reactant | n-butylisocyanate | 0.041 mol, 4.7 ml | C(CCC)N=C=O | C5H9NO
reactant | phosgene | 0.039 mol, 2.7 ml | C(=O)(Cl)Cl | CCl2O
product | 2-[(2-methoxyethyl)sulfonyl]benzenesulfonyl isocyanate | COCCS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H11NO6S2
